US06989393B2
2-Nitro-1-N-[1-(phenylmethyloxycarbonyl)-piperidin-4-yl]aniline
A suspension of 2-fluoronitrobenzene (3.52 g, 25 mmol), 4-amino-1-(phenylmethyloxycarbonyl)piperidine† (4.0 g, 17 mmol) and potassium carbonate (64 g, 19 mmol) in DMSO (25 ml) was heated to 100° C. After 5 h the mixture was poured into ice/water and the resulting yellow solid was collected by filtration and washed with water. The solid was dried to give the title compound as a yellow solid (5.69 g, 16 mmol); NMR: 1.6 (m, 2H), 2.1 (d, 2H), 3.1 (t, 2H), 3.7 (m, 1H), 4.1 (d, 2H), 5.2 (s, 2H), 6.7 (t, 1H), 6.9 (d, 1H), 7.3-7.5 (m, 6H), 8.1 (d, 1H) and 8.2 (dd, 1H); MS: 356.

reactant | 2-fluoronitrobenzene | 25 mmol, 3.52 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-amino-1-(phenylmethyloxycarbonyl)piperidine | NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
reactant | potassium carbonate | 19 mmol, 64 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
product | 2-Nitro-1-N-[1-(phenylmethyloxycarbonyl)-piperidin-4-yl]aniline | 16 mmol, 5.69 g | [N+](=O)([O-])C1=C(NC2CCN(CC2)C(=O)OCC2=CC=CC=C2)C=CC=C1 | C19H21N3O4
